US05120737
A mixture of 5.00 g (48.0 mmols) of 2-hydroxybutyric acid, 4.98 ml (52.8 mmols) of acetic anhydride and 60 ml of pyridine was stirred at 0° C. for 10 minutes. After concentration under reduced pressure, the residue was purified by silica gel column chromatography (eluent; chloroform) to give 7.01 g (yield, 100%) of 2-acetoxybutyric acid.

reactant | 2-hydroxybutyric acid | 48.0 mmols, 5.00 g | OC(C(=O)O)CC | C4H8O3
reactant | acetic anhydride | 52.8 mmols, 4.98 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 2-acetoxybutyric acid | 7.01 g, 100% | C(C)(=O)OC(C(=O)O)CC | C6H10O4
